US06610685B2
25 mg sodium hydride 55-65% in oil was added to a solution of 165 mg (S)-[2-(6-hydroxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester in 1.5 mL N,N-dimethylformamide. The mixture was stirred at room temperature for 30 min, then 120 mg 3-(methoxyethoxy)propyl bromide was added added and the reaction mixture was stirred at room temperature for an additional 22 h. The reaction mixture was distributed between water and ethyl acetate. The phases were separated, the organic phase washed with water, 10% citric acid, 10% sodium bicarbonate and brine, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel with hexane:ethyl acetate=4:1. The product fractions were evaporated and the residue taken up in 4.0 mL of a 2.16 M solution of hydrochloric acid in ethyl acetate. The mixture was stirred at room temperature for 1 h, the solid collected by filtration, neutralised with aqueous ammonium hydroxide and purified by chromatography on silica gel with dichloromethane:methanol:aqueous ammonium hydroxide=90:9:1. The product fractions were dried over magnesium sulfate and evaporated to yield 80 mg (S)-2-{6-[3-(2-methoxy-ethoxy)-propoxy]-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl}-1-methyl-ethylamine as light brown oil. MS: M+H=347.5; M+H−NH3=330.4.

reactant | sodium hydride | 25 mg | [H-].[Na+]
reactant | (S)-[2-(6-hydroxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 165 mg | C(C)(C)(C)OC(N[C@H](CC1=C2N(C=3C=CC(=CC13)O)CCC2)C)=O | C19H26N2O3
reactant | 3-(methoxyethoxy)propyl bromide | 120 mg | COCCOCCCBr | C6H13BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-{6-[3-(2-methoxy-ethoxy)-propoxy]-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl}-1-methyl-ethylamine | 80 mg | COCCOCCCOC1=CC=2C(=C3N(C2C=C1)CCC3)C[C@H](C)N | C20H30N2O3
